US05053416
3-(4-methyloxazol-2-yl)-1,2,5,6-tetrahydropyridine hydrochloride
3.25 g of alpha-chloroethyl chloroformate is added at -5° C. under inert atmosphere to a solution of 3.65 g of [1-methyl-3-(4-methyl-oxazol-2-yl)-1,2,5,6-tetrahydropyridine] in 70 cm3 of dichloroethane, and the mixture is heated under reflux for 2 hours. The solvent is evaporated, the residue is taken up in ether, filtered, the solvent is evaporated, the residue is taken up in 30 cm3 of methanol, heated under reflux for 45 minutes and the solvent is eliminated. After crystallization from ethanol, 1.9 g of expected product is obtained.

reactant | alpha-chloroethyl chloroformate | 3.25 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | 1-methyl-3-(4-methyl-oxazol-2-yl)-1,2,5,6-tetrahydropyridine | CN1CC(=CCC1)C=1OC=C(N1)C | C10H14N2O
solvent | dichloroethane | 70 cm3 | ClC(C)Cl | C2H4Cl2
product | 3-(4-methyloxazol-2-yl)-1,2,5,6-tetrahydropyridine hydrochloride | 1.9 g | Cl.CC=1N=C(OC1)C=1CNCCC1 | InChI=1S/C9H12N2O.ClH/c1-7-6-12-9(11-7)8-3-2-4-10-5-8;/h3,6,10H,2,4-5H2,1H3;1H
